**************************************************
* Manufacturer:           Würth Elektronik 
* Kinds:                  SMT EMI Suppression Ferrite Bead (High Frequency)
* Matchcode:              WE-CBF HF
* Library Type:           Pspice
* Version:                rev24a
* Created/modified by:    Ella
* Date and Time:          6/18/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt CBF_HF_0402_742841160_600ohm 1 2
Rp 1 2 1543.8
Cp 1 2 0.105p
Rs 1 N3 1.6
L1 N3 2 0.93845u
.ends CBF_HF_0402_742841160_600ohm
*******
.subckt CBF_HF_0402_742841210_1000ohm 1 2
Rp 1 2 1664.2
Cp 1 2 0.077p
Rs 1 N3 1.8
L1 N3 2 1.926u
.ends CBF_HF_0402_742841210_1000ohm
*******
.subckt CBF_HF_0402_742843122_220ohm 1 2
Rp 1 2 404.5
Cp 1 2 0.155p
Rs 1 N3 0.38
L1 N3 2 0.4462u
.ends CBF_HF_0402_742843122_220ohm
*******
.subckt CBF_HF_0603_742861118_180ohm 1 2
Rp 1 2 228.16
Cp 1 2 0.315p
Rs 1 N3 0.55
L1 N3 2 0.4875u
.ends CBF_HF_0603_742861118_180ohm
*******
.subckt CBF_HF_0603_742861160_600ohm 1 2
Rp 1 2 741.8
Cp 1 2 0.157p
Rs 1 N3 0.9
L1 N3 2 1.6u
.ends CBF_HF_0603_742861160_600ohm
*******
.subckt CBF_HF_0603_742861210_1000ohm 1 2
Rp 1 2 2412.9
Cp 1 2 0.097p
Rs 1 N3 1.8
L1 N3 2 1.6193u
.ends CBF_HF_0603_742861210_1000ohm
*******
.subckt CBF_HF_0603_742862160_600ohm 1 2
Rp 1 2 1412.6
Cp 1 2 0.125p
Rs 1 N3 1.5
L1 N3 2 0.975u
.ends CBF_HF_0603_742862160_600ohm
*******
.subckt CBF_HF_0603_742863122_220ohm 1 2
Rp 1 2 422.66
Cp 1 2 0.185p
Rs 1 N3 0.25
L1 N3 2 0.44873u
.ends CBF_HF_0603_742863122_220ohm
*******
.subckt CBF_HF_0603_742863147_470ohm 1 2
Rp 1 2 1083.3
Cp 1 2 0.098p
Rs 1 N3 0.32
L1 N3 2 1.06438u
.ends CBF_HF_0603_742863147_470ohm
*******
.subckt CBF_HF_0603_742863160_600ohm 1 2
Rp 1 2 943
Cp 1 2 0.135p
Rs 1 N3 0.35
L1 N3 2 0.8908u
.ends CBF_HF_0603_742863160_600ohm
*******
