**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Performance SMD High Current Inductor
* Matchcode:             WE-CHSA P
* Library Type:          Pspice
* Version:               rev22b
* Created/modified by:   Ella
* Date and Time:         6/8/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt CHSA_P_1011_78433390150_1u5 1 2
Rp 1 2 1602
Cp 1 2 2.823p
Rs 1 N3 0.0039
L1 N3 2 1.388u
.ends CHSA_P_1011_78433390150_1u5
*******
.subckt CHSA_P_1011_78433390240_2u4 1 2
Rp 1 2 2607
Cp 1 2 3.048p
Rs 1 N3 0.0054
L1 N3 2 2.278u
.ends CHSA_P_1011_78433390240_2u4
*******
.subckt CHSA_P_1011_78433390300_3u 1 2
Rp 1 2 3270
Cp 1 2 2.916p
Rs 1 N3 0.00725
L1 N3 2 2.834u
.ends CHSA_P_1011_78433390300_3u
*******
.subckt CHSA_P_1011_78433390430_4u3 1 2
Rp 1 2 4417
Cp 1 2 3.108p
Rs 1 N3 0.01085
L1 N3 2 4.233u
.ends CHSA_P_1011_78433390430_4u3
*******
.subckt CHSA_P_1011_78433390620_6u2 1 2
Rp 1 2 6737
Cp 1 2 2.606p
Rs 1 N3 0.0159
L1 N3 2 5.995u
.ends CHSA_P_1011_78433390620_6u2
*******
.subckt CHSA_P_1011_78433390820_8u2 1 2
Rp 1 2 8222
Cp 1 2 3.205p
Rs 1 N3 0.0215
L1 N3 2 7.712u
.ends CHSA_P_1011_78433390820_8u2
*******
.subckt CHSA_P_1011_78433391000_10u 1 2
Rp 1 2 10415
Cp 1 2 2.911p
Rs 1 N3 0.0277
L1 N3 2 9.504u
.ends CHSA_P_1011_78433391000_10u
*******
.subckt CHSA_P_1011_78433391500_15u 1 2
Rp 1 2 16030
Cp 1 2 3.179p
Rs 1 N3 0.0508
L1 N3 2 15.425u
.ends CHSA_P_1011_78433391500_15u
*******
.subckt CHSA_P_1212_78433290200_2u 1 2
Rp 1 2 1836
Cp 1 2 3.178p
Rs 1 N3 0.0039
L1 N3 2 1.942u
.ends CHSA_P_1212_78433290200_2u
*******
.subckt CHSA_P_1212_78433290240_2u4 1 2
Rp 1 2 2324
Cp 1 2 2.915p
Rs 1 N3 0.0053
L1 N3 2 2.382u
.ends CHSA_P_1212_78433290240_2u4
*******
.subckt CHSA_P_1212_78433290360_3u6 1 2
Rp 1 2 3432
Cp 1 2 3.034p
Rs 1 N3 0.00685
L1 N3 2 3.529u
.ends CHSA_P_1212_78433290360_3u6
*******
.subckt CHSA_P_1212_78433290510_5u1 1 2
Rp 1 2 4856
Cp 1 2 2.876p
Rs 1 N3 0.0099
L1 N3 2 5.432u
.ends CHSA_P_1212_78433290510_5u1
*******
.subckt CHSA_P_1212_78433290620_6u2 1 2
Rp 1 2 5621
Cp 1 2 3.089p
Rs 1 N3 0.01245
L1 N3 2 6.103u
.ends CHSA_P_1212_78433290620_6u2
*******
.subckt CHSA_P_1212_78433290750_7u5 1 2
Rp 1 2 6972
Cp 1 2 2.975p
Rs 1 N3 0.01695
L1 N3 2 7.261u
.ends CHSA_P_1212_78433290750_7u5
*******
.subckt CHSA_P_1212_78433290820_8u2 1 2
Rp 1 2 7621
Cp 1 2 3.027p
Rs 1 N3 0.0179
L1 N3 2 8.163u
.ends CHSA_P_1212_78433290820_8u2
*******
.subckt CHSA_P_1212_78433291500_15u 1 2
Rp 1 2 15563
Cp 1 2 2.89p
Rs 1 N3 0.0359
L1 N3 2 16.066u
.ends CHSA_P_1212_78433291500_15u
*******
.subckt CHSA_P_8090_78433490036_0u36 1 2
Rp 1 2 751.778
Cp 1 2 1.494p
Rs 1 N3 0.0023
L1 N3 2 0.355435u
.ends CHSA_P_8090_78433490036_0u36
*******
.subckt CHSA_P_8090_78433490056_0u56 1 2
Rp 1 2 1078
Cp 1 2 1.449p
Rs 1 N3 0.00345
L1 N3 2 0.514054u
.ends CHSA_P_8090_78433490056_0u56
*******
.subckt CHSA_P_8090_78433490075_0u75 1 2
Rp 1 2 1457
Cp 1 2 1.476p
Rs 1 N3 0.0049
L1 N3 2 0.725695u
.ends CHSA_P_8090_78433490075_0u75
*******
.subckt CHSA_P_8090_78433490160_1u6 1 2
Rp 1 2 3108
Cp 1 2 1.848p
Rs 1 N3 0.01
L1 N3 2 1.586u
.ends CHSA_P_8090_78433490160_1u6
*******
.subckt CHSA_P_8090_78433490240_2u4 1 2
Rp 1 2 4484
Cp 1 2 1.701p
Rs 1 N3 0.01535
L1 N3 2 2.325u
.ends CHSA_P_8090_78433490240_2u4
*******
.subckt CHSA_P_8090_78433490390_3u9 1 2
Rp 1 2 6650
Cp 1 2 1.603p
Rs 1 N3 0.0241
L1 N3 2 3.726u
.ends CHSA_P_8090_78433490390_3u9
*******
